US09195137B2
To 5.00 g of 5-aminoisophthalic acid, 80 mL of 1,4-dioxane and 80 mL of an aqueous solution in which 2.21 g of sodium hydroxide was dissolved were added and, to the resultant, 9.04 g of di(tert-butyl)dicarbonate was added, followed by stirring at room temperature for 19 hours. To the resultant reaction mixture, a saturated aqueous citric acid solution was added to make the reaction mixture acidic, followed by filtration of the precipitated solid. The filtration product was dried under reduced pressure to obtain 7.01 g of 5-(tert-butoxycarbonyl)aminoisophthalic acid at a yield of 90%.

reactant | 5-aminoisophthalic acid | 5.00 g | NC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H7NO4
reactant | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
reactant | di(tert-butyl)dicarbonate | 9.04 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | sodium hydroxide | 2.21 g | [OH-].[Na+]
product | 5-(tert-butoxycarbonyl)aminoisophthalic acid | 7.01 g, yield of 90% | C(C)(C)(C)OC(=O)NC=1C=C(C=C(C(=O)O)C1)C(=O)O | C13H15NO6
